US07781422B2
Step 2: methyl 1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-2-phenyl-1H-indole-6-carboxylate
To a solution of methyl 2-bromo-1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-1H-indole-6-carboxylate in dioxane (0.06 M) was added bis(triphenylphosphine)palladium(II) dichloride (0.2 eq) at RT under a nitrogen atmosphere. Then aqueous Na2CO3 (2 M; 4 eq) followed by phenylboronic acid (2.5 eq) were added and the reaction was heated to 80° C. for 2 h. The reaction mixture was allowed to cool and concentrated in vacuo. DCM was added and the organic phase washed with H2O, brine and dried over Na2SO4 before being filtered and concentrated in vacuo. The crude material was purified by automated FC (SiO2; 95:5 EtOAc/PE) to afford the title compound (88%). (ES+) m/z 448 (M+H)+

reactant | methyl 2-bromo-1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(=O)OC(C)(C)C | C22H28BrNO4
reactant | Na2CO3 | 2 M, 4 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phenylboronic acid | 2.5 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dioxane | 0.06 M | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.2 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-2-phenyl-1H-indole-6-carboxylate | 88% | C(C)(C)(C)OC(CN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=CC=CC=C1)=O | C28H33NO4
